US07524849B2
To tert-butyl {3-[4-(4-cycloheptyl-6-hydroxy-2-pyrazin-2-ylpyrimidin-5-yl)-3,5-difluorophenoxy]propyl}methylcarbamate (130 mg, 0.23 mmol) is added 2.0 mL of phosphorous oxychloride and 1.0 mL of 2,6-lutidine, and the mixture is heated at 110° C. for 12 h. The excess phosphorous oxychloride is removed in vaccuo, and the resulting residue is chromatographed over silica gel, eluting with 30% ethyl acetate in hexanes. Concentration provides tert-butyl {3-[4-(6-chloro-4-cycloheptyl-2-pyrazin-2-ylpyrimidin-5-yl)-3,5-difluorophenoxy]propyl}methylcarbamate as a light yellow semi-solid (23 mg). MS: m/z 588.0 (M+H). This product is dissolved in 2 mL of methylene chloride, and 2.3 mL of trifluoroacetic acid is added. The mixture is stirred at 40° C. for 20 h, and concentrated in vaccuo, yielding N-{3-[4-(4-chloro-6-cycloheptyl-2-pyrazin-2-ylpyrimidin-5-yl)-3,5-difluorophenoxy]propyl}-N-methylamine as a trifluoroacetic acid salt as a light yellow semi-solid (24 mg). MS: m/z 488.2 (M+H).

reactant | tert-butyl {3-[4-(4-cycloheptyl-6-hydroxy-2-pyrazin-2-ylpyrimidin-5-yl)-3,5-difluorophenoxy]propyl}methylcarbamate | 0.23 mmol, 130 mg | C1(CCCCCC1)C1=NC(=NC(=C1C1=C(C=C(OCCCN(C(OC(C)(C)C)=O)C)C=C1F)F)O)C1=NC=CN=C1 | C30H37F2N5O4
reactant | phosphorous oxychloride | 2.0 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2,6-lutidine | 1.0 mL | N1=C(C=CC=C1C)C | C7H9N
product | tert-butyl {3-[4-(6-chloro-4-cycloheptyl-2-pyrazin-2-ylpyrimidin-5-yl)-3,5-difluorophenoxy]propyl}methylcarbamate | 23 mg | ClC1=C(C(=NC(=N1)C1=NC=CN=C1)C1CCCCCC1)C1=C(C=C(OCCCN(C(OC(C)(C)C)=O)C)C=C1F)F | C30H36ClF2N5O3
